US08471005B2
1-(4-Nitro-phenyl)-piperazine (2.0 g, 0.0096 mol) was dissolved in Methanol (50.0 mL) and the reaction mixture was placed in a sealed tube. (S)-(−)-Propylene Oxide (0.841 g, 0.0145 mol) was then added at room temperature and the reaction was allowed to stir overnight. The mixture was then reduced en vacuo and the product was isolated by Isco flash column chromatography (DCM/MeOH) to afford 1.63 grams of (S)-1-[4-(4-Nitro-phenyl)-piperazin-1-yl]-propan-2-ol as a yellow solid. (M+H)=266.20.

reactant | 1-(4-Nitro-phenyl)-piperazine | 0.0096 mol, 2.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | (S)-(−)-Propylene Oxide | 0.0145 mol, 0.841 g | C1[C@H](C)O1 | C3H6O
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | Methanol | 50.0 mL | CO | CH4O
product | (S)-1-[4-(4-Nitro-phenyl)-piperazin-1-yl]-propan-2-ol | 1.63 grams | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C[C@H](C)O | C13H19N3O3
